US03963733
A suspension of 5 g. of 3-(p-methoxybenzylthio)-picolinamide in 50 ml. of 20% aqueous sodium hydroxide is refluxed for about 24 hours, then cooled and acidified with dilute hydrochloric acid. Filtering, washing the precipitate with water, drying and recrystallizing from methanol gives 3-(p-methoxybenzylthio)picolinic acid.

reactant | 3-(p-methoxybenzylthio)-picolinamide | COC1=CC=C(CSC=2C(=NC=CC2)C(=O)N)C=C1 | C14H14N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3-(p-methoxybenzylthio)picolinic acid | COC1=CC=C(CSC=2C(=NC=CC2)C(=O)O)C=C1 | C14H13NO3S
